US06589977B1
To a solution of 2-[1-(3-dimethylaminopropyl)-1H-indol-3-yl]-3-(1H-indol-3-yl)-N-methylmaleimide (60 mg, 0.14 mmol) in MeOH (3 mL) was added a small amount of 10% palladium-carbon, and the whole was stirred at room temperature for 1 day under hydrogen atmosphere. The palladium-carbon was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography over silica gel (dichloromethan:methanol=8:1) to obtain 3-[1-(3-dimethylaminopropyl)-1H-indol-3-yl]-3-(1H-indol-3-yl)-1-methyl-2,5-dioxopyrrolidine (49 mg, 81.5%) as pale red solids.

reactant | 2-[1-(3-dimethylaminopropyl)-1H-indol-3-yl]-3-(1H-indol-3-yl)-N-methylmaleimide | 0.14 mmol, 60 mg | CN(CCCN1C=C(C2=CC=CC=C12)C=1C(=O)N(C(C1C1=CNC2=CC=CC=C12)=O)C)C | C26H26N4O2
reactant | MeOH | 3 mL | CO | CH4O
catalyst | palladium-carbon | [C].[Pd]
product | 3-[1-(3-dimethylaminopropyl)-1H-indol-3-yl]-3-(1H-indol-3-yl)-1-methyl-2,5-dioxopyrrolidine | 49 mg, 81.5% | CN(CCCN1C=C(C2=CC=CC=C12)C1(C(N(C(C1)=O)C)=O)C1=CNC2=CC=CC=C12)C | C26H28N4O2
